US06420365B1
A solution of 3.69 g (9.5 mmol) of ethyl 3-[(2-methoxy-5-bromophenyl)methyl]-imidazolo[1,2-a]pyridine-2-carboxylate in 50 mL tetrahydrofuran is cooled to −78° C. and treated with 25.0 mL (25.0 mmol) of diisobutylaluminum hydride, 1M in hexane. After 1 hr the reaction is allowed to warm up to room temperature and carefully quenched by addition of 25 mL 1M sodium hydroxide. The mixture is extracted with 3×40 mL ethyl acetate and the combined extracts washed with 50 mL brine and dried over anhydrous MgSO4 and the solvent removed in vacuo to afford 3.0 g (91% yield) {3-[(5-bromo-2-methoxyphenyl)methyl]-imidazolo[1,2-a]pyridin-2-yl}methan-1-ol.

reactant | ethyl 3-[(2-methoxy-5-bromophenyl)methyl]-imidazolo[1,2-a]pyridine-2-carboxylate | 9.5 mmol, 3.69 g | COC1=C(C=C(C=C1)Br)CC1=C(N=C2N1C=CC=C2)C(=O)OCC | C18H17BrN2O3
reactant | diisobutylaluminum hydride | 25.0 mmol, 25.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | {3-[(5-bromo-2-methoxyphenyl)methyl]-imidazolo[1,2-a]pyridin-2-yl}methan-1-ol | 3.0 g, 91% yield | BrC=1C=CC(=C(C1)CC1=C(N=C2N1C=CC=C2)CO)OC | C16H15BrN2O2
